US07196088B2
2-Methyl-3-nitro-benzoic acid methyl ester (5.0 g, 25.6 mmol) was combined with dimethoxymethyl-dimethyl-amine (10.2 mL, 76.8 mmol, 3.0 eq.) and DMF (25 mL) and heated to 110° C. overnight. The reaction mixture was then concentrated in vacuo to yield crude 2-(2-Dimethylamino-vinyl)-3-methyl-benzoic acid methyl ester.

reactant | 2-Methyl-3-nitro-benzoic acid methyl ester | 25.6 mmol, 5.0 g | COC(C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C9H9NO4
reactant | dimethoxymethyl-dimethyl-amine | 76.8 mmol, 10.2 mL, 3.0 eq. | COC(OC)N(C)C | C5H13NO2
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-(2-Dimethylamino-vinyl)-3-methyl-benzoic acid methyl ester | COC(C1=C(C(=CC=C1)C)C=CN(C)C)=O | C13H17NO2
